US06972340B2
methyl 2,6-dihydroxy-4-methoxybenzoate
The tilted compound was prepared according to the procedure described for Example 12A, substituting 2,4,6-trihydroxybenzoate for 2,6-dihydroxybenzoate and methanol for tert-butyl 4-hydroxybutylcarbamate.

reactant | 2,6-dihydroxybenzoate | OC1=C(C(=O)[O-])C(=CC=C1)O
reactant | tert-butyl 4-hydroxybutylcarbamate | OCCCCNC(OC(C)(C)C)=O | C9H19NO3
reactant | methanol | CO | CH4O
product | methyl 2,6-dihydroxy-4-methoxybenzoate | OC1=C(C(=O)OC)C(=CC(=C1)OC)O | C9H10O5
